US07592477B2
Step a) Formation of N-[3-(trifluoromethyl)benzyl]-N-[4-(3-octyl-1,2,4-oxadiazol-5-yl)benzyl]amine
The same procedure as employed in the preparation of Example 357 (step a) but using 4-(3-octyl-1,2,4-oxadiazol-5-yl)benzaldehyde and 3-(trifluoromethyl)benzylamine gave the title compound as an oil. M+(LC/MS(ESI)): 446.4. HPLC (Condition A), Rt: 4.31 min (HPLC purity: 73.9%).

reactant | 4-(3-octyl-1,2,4-oxadiazol-5-yl)benzaldehyde | C(CCCCCCC)C1=NOC(=N1)C1=CC=C(C=O)C=C1 | C17H22N2O2
reactant | 3-(trifluoromethyl)benzylamine | FC(C=1C=C(CN)C=CC1)(F)F | C8H8F3N
product | N-[3-(trifluoromethyl)benzyl]-N-[4-(3-octyl-1,2,4-oxadiazol-5-yl)benzyl]amine | FC(C=1C=C(CNCC2=CC=C(C=C2)C2=NC(=NO2)CCCCCCCC)C=CC1)(F)F | C25H30F3N3O
